US04863920
2.4 g (7.6 mmol) of 7-chloro-4,5-dihydro-3-[(E)-3-oxo-1-butenyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was dissolved in 50 ml of dimethylformamide while warming. Thereafter, the solution was diluted with 280 ml of ethanol. 0.6 g (15.8 mmol) of sodium borohydride was added to this solution and the mixture was stirred at 20° for 2.5 hours. Thereafter, a further 0.2 g of sodium borohydride was added thereto. After a total reaction period of 4.5 hours the mixture was evaporated in a vacuum. The residue, which still contained dimethylformamide, was poured on to ice/water and stirred at 0° for 1 hour. The crystallizate was filtered off under suction and dried. There was obtained 7-chloro-4,5-dihydro-3-[(E)-3-hydroxy-1-butenyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals of melting point 232°-233°.

reactant | 7-chloro-4,5-dihydro-3-[(E)-3-oxo-1-butenyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 7.6 mmol, 2.4 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1\C=C\C(C)=O)C)=O | C16H14ClN3O2
reactant | sodium borohydride | 15.8 mmol, 0.6 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 7-chloro-4,5-dihydro-3-[(E)-3-hydroxy-1-butenyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1\C=C\C(C)O)C)=O | C16H16ClN3O2
